US05506267
6,7-dihydroxy-4-thiaheptanoic acid t-butyl ester
Acrylic acid t-butyl ester (15 g) and thioglycerol (15 g) were mixed together in the absence of solvent. To the reaction mixture, one drop of triethylamine was added to cause an exothermic reaction, yielding a homogeneous reaction mixture, which was then diluted with ethyl acetate, washed with water and dried, followed by solvent concentration under reduced pressure, to yield the title compound (25.79 g, yield 93%) as a colorless oily substance.

reactant | Acrylic acid t-butyl ester | 15 g | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | thioglycerol | 15 g | SCC(O)CO | C3H8O2S
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-dihydroxy-4-thiaheptanoic acid t-butyl ester | 25.79 g, yield 93% | C(C)(C)(C)OC(CCSCC(CO)O)=O | C10H20O4S
